US04978753
In the manner given in Example 21, carbonyldiimidazole, 4-(1-pyrrolidinyl)tetrolic acid, and 2-amino-8-ethylthio-7-ethyl-5-(p-methylphenyl)-3H-1,4-benzodiazepine was stirred in tetrahydrofuran-dimethylformamide to give 10-ethylthio-9-ethyl-1-(1-pyrrolidinylmethyl)-7-(p-methylphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one.

reactant | carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(1-pyrrolidinyl)tetrolic acid | N1(CCCC1)CC#CC(=O)O | C8H11NO2
reactant | 2-amino-8-ethylthio-7-ethyl-5-(p-methylphenyl)-3H-1,4-benzodiazepine | NC1=NC2=C(C(=NC1)C1=CC=C(C=C1)C)C=C(C(=C2)SCC)CC | C20H23N3S
solvent | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | 10-ethylthio-9-ethyl-1-(1-pyrrolidinylmethyl)-7-(p-methylphenyl)pyrimido[1,2-a][1,4]benzodiazepin-3(5H)-one | C(C)SC1=CC2=C(C(=NCC=3N2C(=CC(N3)=O)CN3CCCC3)C3=CC=C(C=C3)C)C=C1CC | C28H32N4OS
